US08957093B2
Step 1: (S)-tert-Butyl 4′-((2,3-dimethyl-5-((1-(m-tolyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
A mixture of (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate (24 mg, 0.038 mmol), trimethylboroxine (10 μL, 0.072 mmol), Pd(PPh3)4 (11 mg, 0.0095 mmol) and K2CO3 (15 mg, 0.11 mmol) in Dioxane (0.7 ml) were heated in a Biotage Microwave reactor at 100° C. for 2 h. The solvent was removed and the residue was purified by reverse phase prep-HPLC (MeOH/Acetonitrile/water) to obtain the title compound.

reactant | (S)-tert-butyl 4′-((5-((1-(3-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | 0.038 mmol, 24 mg | BrC=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C37H37BrN2O3
reactant | trimethylboroxine | 0.072 mmol, 10 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 0.11 mmol, 15 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Dioxane | 0.7 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0095 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-Butyl 4′-((2,3-dimethyl-5-((1-(m-tolyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C)C=1C=C(C=CC1)C)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C38H40N2O3
